US09056877B2
5-Amino-6-chloropyrimidine-4-thiol (A-3) (14.0 g, 86.9 mmol) is dissolved in triethoxymethane (180 mL), and the resulting mixture is stirred at reflux for 3 h. The mixture is allowed to cool to RT and then concentrated in vacuo. The residue is purified by flash column chromatography on silica gel (5-10% ethyl acetate-petro ether) to afford the product, 7-chlorothiazolo[5,4-d]pyrimidine (A-4).

reactant | 5-Amino-6-chloropyrimidine-4-thiol | 86.9 mmol, 14.0 g | NC=1C(=NC=NC1Cl)S | C4H4ClN3S
reactant | triethoxymethane | 180 mL | C(C)OC(OCC)OCC | C7H16O3
product | 7-chlorothiazolo[5,4-d]pyrimidine | ClC=1C2=C(N=CN1)SC=N2 | C5H2ClN3S
